Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left mastitis
 
Major Surgical or Invasive Procedure:
mastitis, failed out patient management

 
History of Present Illness:
___ s/p SVD ___. Treated for mastitis of right breast 
___ with dicloxacillin 500 mg QID, still taking medication.  
Fever, pain and redness of right breast initially resolved.  Now 
presents with fever yesterday of 103 and pain and redness of 
left breast. Pumping only due to inverted nipples. Normally 
pumped 32 ounces per day until last ___ now reports 
decreased milk supply only getting out 1 oz per breast every ___ 
hours.  Using hot compresses and massage to help empty breasts. 
VS while pt was in office: T - 98.0; BP 114/70 in
office. 
 
Past Medical History:
OB Hx:G2P2, SVD x2 ___, both full term, uncomplicated)

GYN Hx: denied hx of abnl pap or STIs

PMH:
1. Anxiety. 
2. Depression. 
3. Lower back pain- in physical therapy. 

PSH: eye surgery

 
Social History:
___
Family History:
none contributory
 
Physical Exam:
PE: T 97.4 HR 96 BP 116/70 RR 18
Gen: NAD
Card: RRR
Lungs: CTAB
Abd: soft, ND, NT
Right breast: no redness, swelling or pain.
Left breast: engorged, larger than right, erythema over entire
breast, warm to touch, tender.  no obvious masses. Erythema of
left breast marked. 

 
Pertinent Results:
___ 07:05AM BLOOD WBC-12.9* RBC-3.85* Hgb-11.5* Hct-34.4* 
MCV-90 MCH-29.9 MCHC-33.4 RDW-13.0 Plt ___
___ 07:20AM BLOOD WBC-14.5* RBC-3.81* Hgb-11.3* Hct-34.6* 
MCV-91 MCH-29.8 MCHC-32.8 RDW-13.2 Plt ___
___ 02:33PM BLOOD WBC-17.6*# RBC-3.83* Hgb-11.4* Hct-33.6* 
MCV-88 MCH-29.9 MCHC-34.1 RDW-13.5 Plt ___
___ 07:05AM BLOOD Neuts-60 Bands-2 Lymphs-16* Monos-4 
Eos-16* Baso-0 ___ Metas-1* Myelos-1*
___ 07:20AM BLOOD Neuts-65 Bands-2 Lymphs-17* Monos-2 
Eos-11* Baso-0 Atyps-2* ___ Myelos-0 Promyel-1*
___ 02:33PM BLOOD Neuts-79.9* Lymphs-10.6* Monos-2.8 
Eos-6.4* Baso-0.3
___ 07:05AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 07:20AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
. 
___ left breast US: diffuse skin thickening and edematous 
breast tissue, consistent with clinical history of mastitis. 
There is no evidence of drainable collection or abscess. Any 
decision for further intervention at this time should be based 
on clinical assessment. Close clinical correlation is 
recommended, with followup imaging after appropriate 
treatment/resolution of clinical symptoms to document resolution 
of imaging findings. 
 
Brief Hospital Course:
Pt developed left mastitis while being treated w/ dicloxacillin 
for mastitis of her right breast. Her right mastitis resolved, 
however, pt has failed outpatient oral treatment for left 
mastitis, thus pt was admitted for inpatient treatment. Pt had 
US, which did not show drainable abscess. Pt received IV 
Vancomycin 1 gram Q12H and warm compress. Pt was also seen by 
the lactation consultants. She responded well to the above 
interventions. Pt was discharged on hospital day#4 in stable 
condition: afebrile, able to eat regular food, under adequate 
pain control with oral medications, and ambulating and urinating 
without difficulty.

 
Medications on Admission:
PNV, Motrin PRN, Dicloxacillin, Lexapro 30 mg daily
 
Discharge Medications:
1. Bactrim DS 800-160 mg Tablet Sig: One (1) Tablet PO twice a 
day for 7 days.
Disp:*14 Tablet(s)* Refills:*0*

PNV, Motrin PRN, Lexapro 30 mg daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
mastitis, failed out patient management

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Follow up next week in office
 
Followup Instructions:
___